US03946021
3,6-BIS(4-PIPERIDINOBUTYRYL)CARBAZOLE
A solution of 15.0 g (0.04 mole) of 3,6-bis(4-chlorobutyryl)carbazole, 85.0 g (1.0 mole) of piperidine and 2.0 g of potassium iodide in 15 ml of tetrahydrofuran was heated at 110°C in a reaction bomb for 24 hours with stirring. Upon cooling the reaction mixture was filtered and diluted with 700 ml of ice water. The resulting solid was washed with water, dried over magnesium sulfate and recrystallized from chloroformpetroleum ether (75°-90°C) and then from acetone to give the desired product. M.P. 171°-173°C, λmaxEtOH 259, E1cm1% 894.

reactant | 3,6-bis(4-chlorobutyryl)carbazole | 0.04 mole, 15.0 g | ClCCCC(=O)C=1C=CC=2NC3=CC=C(C=C3C2C1)C(CCCCl)=O | C20H19Cl2NO2
reactant | piperidine | 1.0 mole, 85.0 g | N1CCCCC1 | C5H11N
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3,6-BIS(4-PIPERIDINOBUTYRYL)CARBAZOLE | N1(CCCCC1)CCCC(=O)C=1C=CC=2NC3=CC=C(C=C3C2C1)C(CCCN1CCCCC1)=O | C30H39N3O2
